US06835732B2
[4-Methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-yl]-carbamic acid methyl ester
1.3 g of (7-bromoacetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester (0.0036 Mol) and 0.27 g of thioacetamide (0.0036 Mol) were dissolved in dioxane (30 ml) and stirred for 4 hrs. at 70° C. After evaporation of half of the solvent water (40 ml) was added and the pH adjust to 7 with sat. NaHCO3. A solid precipitated, which was isolated and then subjected to column chromatography on silicagel using ethyl acetate as eluent. The title product was isolated as an off-white solid (27%); F.p.: 186-188° C.

reactant | (7-bromoacetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 0.0036 Mol, 1.3 g | COC(NC=1SC2=C(N1)C(=CC=C2C(CBr)=O)OC)=O | C12H11BrN2O4S
reactant | thioacetamide | 0.0036 Mol, 0.27 g | C(C)(=S)N | C2H5NS
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-Methoxy-7-(2-methyl-thiazol-4-yl)-benzothiazol-2-yl]-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C=2N=C(SC2)C)OC)=O | C14H13N3O3S2
